### ISSUE TITLE
Delaborator for "not an element" doesn't check for mdata

### ISSUE THREAD

**Issue by djvelleman** [leanprover-community/mathlib4#8575]
The delaborator `delab_not_in` (in Mathlib/Utli/Delaborators.lean) doesn't check for mdata, and as a result it gives the wrong result in certain situations.  These examples illustrates the problem:
```
import Mathlib.Tactic

example (A : Set Nat) : 0 ∈ A := by
  by_contra h

example (A : Set Nat) : 0 ∈ A := by
  have h1 : 0 = 0 := by rfl
  by_contra h
```
In the first example, after the `by_contra` tactic, the display of `h` in the tactic state is `h : 0 ∉ A`.  But in the second example, it is `h : ¬0 ∈ A`.  The reason for the difference is that in the second example, the type of `h` has the form:
```
(app (const Not []) (mdata [(noImplicitLambda, true)] (app (app (app (app (app (const Membership.mem ...
```
It is the presence of the mdata that causes the delaborator to fail to recognize this as the negation of a membership statement.  In the first example, the mdata isn't there, and the delaborator works correctly.

It seems like adding a call to consumeMData should fix the problem.

**Comment by dwrensha** [comment]
This change seems to fix the problem:

```diff
diff --git a/Mathlib/Util/Delaborators.lean b/Mathlib/Util/Delaborators.lean
index c872f89c38..c36a246291 100644
--- a/Mathlib/Util/Delaborators.lean
+++ b/Mathlib/Util/Delaborators.lean
@@ -159,8 +159,14 @@ open Lean Lean.PrettyPrinter.Delaborator
 
 /-- Delaborator for `∉`. -/
 @[delab app.Not] def delab_not_in := whenPPOption Lean.getPPNotation do
+  let go := do
+    guard <| (← SubExpr.getExpr).isAppOfArity ``Membership.mem 5
+    let stx₁ ← SubExpr.withNaryArg 3 delab
+    let stx₂ ← SubExpr.withNaryArg 4 delab
+    return ← `($stx₁ ∉ $stx₂)
+
   let #[f] := (← SubExpr.getExpr).getAppArgs | failure
-  guard <| f.isAppOfArity ``Membership.mem 5
-  let stx₁ ← SubExpr.withAppArg <| SubExpr.withNaryArg 3 delab
-  let stx₂ ← SubExpr.withAppArg <| SubExpr.withNaryArg 4 delab
-  return ← `($stx₁ ∉ $stx₂)
+  SubExpr.withAppArg do
+  if f.isMData
+  then SubExpr.withMDataExpr go
+  else go
```

However, it seems a bit clunky to me. I wonder how many other delaborators potentially hit `mdata` problems, and whether there is a more elegant way to address the problem.

**Comment by djvelleman** [comment]
This looks reasonable to me, but I don't know enough about `SubExpr` to know if this is the best way to do it.

My original thought was to use `consumeMData`.  Comparing `consumeMData` to `SubExpr.withMDataExpr`, it looks to me like consumeMData *repeatedly* removes mdata if necessary, whereas `SubExpr.withMDataExpr` just removes one mdata.  Would it ever be necessary to remove more than one?  Seems unlikely, but whoever wrote `consumeMData` seems to have been assuming that it might happen.
